US03947467
The novel compounds coming within the scope of the generic formula, supra, are readily synthesized starting with commercially available 2-methyl-5-nitroimidazole. This starting compound is allowed to react with a suitable alkylating agent, such as dimethyl sulfate, in a suitable solvent, for example benzene, to yield the comopound identified as 1,2-dimethyl-5-nitroimidazole. This latter compound is in turn allowed to react with benzaldehyde in the presence of a base, for example sodium ethoxide in absolute ethanol, to yield 1-methyl-5-nitro-2-styrylimidazole.

reactant | 2-methyl-5-nitroimidazole | CC=1NC(=CN1)[N+](=O)[O-] | C4H5N3O2
reactant | dimethyl sulfate | S(=O)(=O)(OC)OC | C2H6O4S
reactant | 1,2-dimethyl-5-nitroimidazole | CN1C(=NC=C1[N+](=O)[O-])C | C5H7N3O2
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium ethoxide | [O-]CC.[Na+]
solvent | ethanol | C(C)O | C2H6O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-methyl-5-nitro-2-styrylimidazole | CN1C(=NC=C1[N+](=O)[O-])C=CC1=CC=CC=C1 | C12H11N3O2
